US05665722
Step 1: Benzo[b]furan-3-yl trifluoromethanesulfonate
To a solution of 3-coumaranone (10 g, 75 mmol) in dichloromethane (200 ml) was added trifluoromethanesulfonic anhydride (14 ml, 79 mmol) and 2,6-di-tert-butylpyridine (17 ml, 75 mmol). The reaction was stirred for 3 hours at room temperature. The reaction mixture was washed with 1N hydrochloric acid (2×70 ml) and the organic phase dried (magnesium sulfate) and evaporated. The residue was chromatographed on silica, eluting with petrol (60°-80°) to yield the product as an off (19 g, 96%); δH (CDCl3) 7.40-7.44 (2H, m, 5-H, 6-H), 7.52 (1H, d, J 8.1 Hz, 7-H), 7.62 (1H, d, J 8.3 Hz, 4-H), 7.82 (1H, s, 2-H).

reactant | 3-coumaranone | 75 mmol, 10 g | O1CC(C2=CC=CC=C12)=O | C8H6O2
reactant | trifluoromethanesulfonic anhydride | 79 mmol, 14 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-di-tert-butylpyridine | 75 mmol, 17 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Benzo[b]furan-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C2=C(OC1)C=CC=C2)(F)F | C9H5F3O4S
